US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxaldehyde
A 0.01 mole sample of 4-(α,α,α-trifluoro-m-tolyl)-imidazo[1,5-a]pyrimidine-8-carbonitrile in tetrahydrofuran at -40° C. is reacted with diisobutyl aluminum hydride. To the mixture is added saturated aqueous ammonium chloride followed by dilute sulfuric acid. The mixture is extracted with methylene chloride and the extract washed with water and dried (MgSO4). The solvent is removed under reduced pressure to give the product of the example.

reactant | 4-(α,α,α-trifluoro-m-tolyl)-imidazo[1,5-a]pyrimidine-8-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C#N)(F)F | C14H7F3N4
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxaldehyde | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C=O)(F)F | C14H8F3N3O
